US04695649
Propyl p-hydroxybenzoate and terephthalic dichloride are allowed to react in a similar procedure to Example 5. The reaction product is recrystallized from hexane-chloroform (1:1) to yield di(p-propoxycarbonylphenyl)terephthalate, m.p. 136°-139° C., as white crystals.

reactant | Propyl p-hydroxybenzoate | OC1=CC=C(C(=O)OCCC)C=C1 | C10H12O3
reactant | terephthalic dichloride | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
product | di(p-propoxycarbonylphenyl)terephthalate | C(CC)OC(=O)C1=CC=C(C=C1)OC(C1=CC=C(C(=O)OC2=CC=C(C=C2)C(=O)OCCC)C=C1)=O | C28H26O8
